US06432968B1
7-butyl-3-ethyl-1-(6-hydroxy-6-methylheptyl)-xanthine (comp. no. 11)
4.7 g of 7-butyl-3-ethylxanthine, 2.8 g of potassium carbonate, and 4.4 g of 1-bromo-6-hydroxy-6-methylheptane are stirred in 100 ml of dimethylformamide at 120° C. for 7 hours. The mixture is filtered hot with suction, the filtrate is concentrated under reduced pressure, the residue is taken up in chloroform, washed first with 2 N sodium hydroxide solution and then with water until neutral and dried over sodium sulphate, the solvent is distilled off under reduced pressure whereupon an oily crude product in virtually quantitative yield is obtained which can advantageously be purified by filtration over a silica gel column using a chloroform/methanol (10:1) mixture as mobile phase, followed by a final recrystallization from diisopropylether with addition of petroleum ether.

reactant | 7-butyl-3-ethylxanthine | 4.7 g | C(CCC)N1C=NC=2N(C(NC(C12)=O)=O)CC | C11H16N4O2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-6-hydroxy-6-methylheptane | 4.4 g | BrCCCCCC(C)(C)O | C8H17BrO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-butyl-3-ethyl-1-(6-hydroxy-6-methylheptyl)-xanthine | quantitative yield | C(CCC)N1C=NC=2N(C(N(C(C12)=O)CCCCCC(C)(C)O)=O)CC | C19H32N4O3
